US03998966
To a mixture of 4 g. of sodium hydroxide and 500 ml. of methanol are added 24.6 g. of 6-methylthio-2-naphthyl-α-methylacetic acid. The mixture is stirred for 18 hours at 50° C. The cooled mixture is then evaporated to give sodium 6-methylthio-2-naphthyl-α-methylacetate.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 6-methylthio-2-naphthyl-α-methylacetic acid | CSC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O2S
solvent | methanol | CO | CH4O
product | sodium 6-methylthio-2-naphthyl-α-methylacetate | CSC=1C=C2C=CC(=CC2=CC1)C(C(=O)[O-])C.[Na+] | InChI=1S/C14H14O2S.Na/c1-9(14(15)16)10-3-4-12-8-13(17-2)6-5-11(12)7-10;/h3-9H,1-2H3,(H,15,16);/q;+1/p-1
